US07615520B2
Manganese Neodecanoate
Neodecanoic acid (300 grams) and manganese (II) acetate (106 grams) were both placed into a reaction vessel equipped with a condenser, Dean-stark trap, thermometer, thermocouple, and a gas inlet. Nitrogen gas was bubbled into the reactants. The reactants were heated to 140° C. and stirred for two hours. Overheads and condensate from the reaction were collected in the trap. A subatmospheric pressure was applied to the reaction vessel and the reactants were stirred for an additional two hours at 140° C. until the reaction was complete. Analysis of the product indicated that the product had a kinematic viscosity of 54.8 cSt at 100° C. and a manganese content of 8.1 percent by weight.

reactant | Neodecanoic acid | 300 grams | C(CCCCCC(C)(C)C)(=O)O | C10H20O2
reactant | manganese (II) acetate | 106 grams | C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
product | Manganese Neodecanoate | C(CCCCCC(C)(C)C)(=O)[O-].[Mn+2].C(CCCCCC(C)(C)C)(=O)[O-] | InChI=1S/2C10H20O2.Mn/c2*1-10(2,3)8-6-4-5-7-9(11)12;/h2*4-8H2,1-3H3,(H,11,12);/q;;+2/p-2
